US05750525
3.3 g (30 mmol) of aminomethanephosphonic acid in 120 ml of water and 120 ml of ethanol are introduced together with 3.37 g (31.8 mmol) of soda and mixed with 7.8 g (97%, 30 mmol) of 3-trifluoromethyl-4,6-dichloronitrobenzene, and it is refluxed for 4 hours at 120° C. bath temperature. After removing the ethanol in a rotary evaporator, it is extracted three times with 100 ml of ethyl acetate. The organic phase is washed with a little water. It contains starting material and is discarded. The collected aqueous phase is adjusted acidic with 4N hydrochloric acid to pH 1 and extracted three times with 100 ml of ethyl acetate each. The organic phase is washed with water, dried, filtered and concentrated by evaporation. 6.85 g (68% of theory) of N-(2-nitro-4-trifluoromethyl-5-chloro-phenyl)-aminomethanephosphonic acid of melting point 207.3° C. is obtained.

reactant | aminomethanephosphonic acid | 30 mmol, 3.3 g | NCP(O)(=O)O | CH6NO3P
reactant | 3-trifluoromethyl-4,6-dichloronitrobenzene | 30 mmol, 7.8 g | FC(C=1C=C(C(=CC1Cl)Cl)[N+](=O)[O-])(F)F | C7H2Cl2F3NO2
solvent | water | 120 ml | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-(2-nitro-4-trifluoromethyl-5-chloro-phenyl)-aminomethanephosphonic acid | 6.85 g, 68% | [N+](=O)([O-])C1=C(C=C(C(=C1)C(F)(F)F)Cl)NCP(O)(=O)O | C8H7ClF3N2O5P
